US07297816B2
(S)-3-(3-Bromo-4-fluoro-phenyl)-2-[2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzoylamino]-propionic acid methyl ester
2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid was coupled to (S)-2-amino-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C, to afford the title compound. HPLC: RT=10.54 min. MS (ESI+): mass calcd. for C23H17BrF3IN2O5S, 697.26; m/z found, 697/699 [M+H]+. 1H NMR (500 MHz, CDCl3): 11.37 (s, 1H), 8.11 (d, J=1.4, 1H), 7.55-7.44 (m, 1H), 7.40 (dd, J=8.3, 1.4, 1H), 7.27-7.26 (m, 1H), 7.09-7.04 (m, 2H), 7.02-6.96 (m, 3H), 6.63 (d, J=6.8, 1H), 4.98 (q, J=5.6, 1H), 3.81 (s, 3H), 3.27-3.13 (m, 2H).

reactant | 2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)I | C13H8F2INO4S
reactant | (S)-2-amino-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=C(C=C1)F)Br)N)=O
product | (S)-3-(3-Bromo-4-fluoro-phenyl)-2-[2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzoylamino]-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)F)Br)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=C(C=CC=C1F)F)=O)=O | C23H17BrF3IN2O5S
